US04001170
A solution of 40 parts of potassium hydroxide in 60 parts of water is added to a solution of 66 parts of thiophenol in 1,000 parts of dimethylformamide and 171 parts of 2-phenyl-6-chloroanthrapyrimidine are then introduced. The mixture is stirred for 16 hours at room temperature and afterwards for a further hour at 50°-60°C. After cooling to room temperature, the colorant, which has precipitated in orange crystalline platelets, is filtered off, washed with DMF and alcohol and dried at 80°-90°C in vacuo. 194 parts (93.2% of theory) are obtained of 2-phenyl-6-phenylmercaptoanthrapyrimidine, which dyes polyester in bulk in fast, yellow shades.

reactant | potassium hydroxide | [OH-].[K+]
reactant | water | O | H2O
reactant | thiophenol | C1(=CC=CC=C1)S | C6H6S
reactant | 2-phenyl-6-chloroanthrapyrimidine | C1(=CC=CC=C1)N1C=NC2=C(C1)C1=CC3=CC=CC=C3C=C1C(=C2)Cl | C22H15ClN2
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 2-phenyl-6-phenylmercaptoanthrapyrimidine | C1(=CC=CC=C1)N1C=NC2=C(C1)C1=CC3=CC=CC=C3C=C1C(=C2)SC2=CC=CC=C2 | C28H20N2S
